US07148229B2
A solution of (4-{[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester in N,N-dimethylformamide (2.5 g, 5.17 mmol) at 25° C. under argon was treated with potassium carbonate (6.43 g, 46.53 mmol) followed by cyclopropyl methyl bromide (752 mg, 7.76 mmol). The suspension was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was diluted with a solution of water (100 mL) and a 1.0N aqueous hydrochloric acid solution (31 mL). The resulting suspension was diluted with chloroform and neutralized with a 1.0N aqueous hydrochloric acid solution. The layers were separated. The aqueous layer was extracted with chloroform. The organics layers were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 97/3 methylene chloride/methanol) afforded (4-{[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester (1.45 g, 52%) as an orange foam; EI-HRMS m/e calculated for C28H32FN5O5 (M+) 537.2387. found 537.2387.

reactant | (4-{[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(NC1N)=O)CC1=C(C=CC=C1)F)=O)=O)=O | C24H26FN5O5
reactant | N,N-dimethylformamide | 5.17 mmol, 2.5 g | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 46.53 mmol, 6.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropyl methyl bromide | 7.76 mmol, 752 mg | C1(CC1)CBr | C4H7Br
product | (4-{[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester | 1.45 g, 52% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(N(C1N)CC1CC1)=O)CC1=C(C=CC=C1)F)=O)=O)=O | C28H32FN5O5
